Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___.
 
Chief Complaint:
Nausea and Vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo F with h/o PE on coumadin presenting from 
clinic with 6 days of N/V, unable to take POs. States ate 
Popeye's on ___. Then n/v since ___ morning without 
fever or diarrhea. No one else was sick at home. She has been 
unable to keep medications down. She had not eaten anything for 
one week and has been unable to tolerate any fluids. On 
admission she had some lightheadedness.  
.  
In ED, vitals were 99.2 68 97/58 14 99  
Labs were notable for a creatinine of 12.8. Abdominal US 
negative for hydro, gallstones and cholecystitis. INR was 
subtherapeutic at 1.4 and patient was given 120mg enoxaparin. 
Also given percocet, seroquel and ambien (home meds), warfarin 
and 2L NS. Unable to get repeat labs due to difficult 
venipuncture.  
.  
This morning, the patient was initially very drowsy. Her 
drowsiness improved over a few hours and she was able to give a 
history. She denies dysuria, abdominal pain. She is no longer 
lightheaded, does not feel nauseous, has not vomited.  

 
Past Medical History:
1. pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently anti-coagulated on couamdin. 
neg 
hypercoag eval by heme)  
2. cellulitis - treated earlier this year for abdominal 
cellulitis
3. fibroids s/p supracervical hysterectomy, repair of bowel 
serosa 
injury, cystoscopy (___)  
4. fibromyalgia - diagnosed earlier this year by PCP ___ "leg 
and back pains"
5. osteoarthritis s/p bilateral knee replacement
6. left leg nerve entrapment 
7. ectopic pregnancy  
8. depression - has seen 5 therapists within the past few years 
9. anxiety  
10. obesity  
11. sleep apnea 
12. HSV - need to confirm with patient
13. migraines
14. GERD
15. chronic lower back pain
16. 2 prior myomectomies
 
Social History:
___
Family History:
noncontributary (Father's health unknown except potential h/o 
stomach cancer; Mother living at ___ with arthritis and 
osteoporosis; Aunt recently passed at ___ ___nd heart 
disease. Children healthy; only child.)
 
Physical Exam:
Physical Exam on Admission ___:

VS - Temp 98.4 F, BP 116/55 , HR 72, R 20, O2-sat 100% RA  
GENERAL - sleeping but arousable, sedated appearing, NAD  
HEENT - NC/AT, EOMI but sluggish, dry MM, OP clear  
NECK - supple, no thyromegaly, no JVD  
LUNGS - CTA bilat, no r/rh/wh  
HEART - Hyperdynamic PMI, non-displaced, RRR, no MRG  
ABDOMEN - hypoactive BS, mildly tender suprapubically with 
fullness on exam, no rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  

 
Pertinent Results:
___ 06:30PM BLOOD WBC-6.4# RBC-4.90 Hgb-13.3 Hct-40.0 
MCV-82 MCH-27.2 MCHC-33.3 RDW-14.2 Plt ___
___ 07:20PM BLOOD WBC-6.0 RBC-4.08* Hgb-11.4* Hct-33.6* 
MCV-82 MCH-27.9 MCHC-33.8 RDW-14.2 Plt ___
___ 11:04AM BLOOD WBC-5.2 RBC-4.02* Hgb-11.0* Hct-33.6* 
MCV-84 MCH-27.4 MCHC-32.8 RDW-14.3 Plt ___
___ 06:30PM BLOOD Neuts-55.6 ___ Monos-9.4 Eos-0.5 
Baso-0.6
___ 06:30PM BLOOD ___ PTT-29.2 ___
___ 11:04AM BLOOD ___ PTT-31.8 ___
___ 03:22AM BLOOD ESR-45*
___ 07:20PM BLOOD LMWH-0.42
___ 06:30PM BLOOD Glucose-116* UreaN-59* Creat-12.8*# 
Na-134 K-4.4 Cl-85* HCO3-24 AnGap-29*
___ 03:22AM BLOOD Glucose-148* UreaN-55* Creat-9.3*# Na-137 
K-2.9* Cl-93* HCO3-29 AnGap-18
___ 07:20PM BLOOD Glucose-152* UreaN-42* Creat-3.9*# Na-140 
K-3.5 Cl-99 HCO3-30 AnGap-15
___ 11:04AM BLOOD Glucose-111* UreaN-28* Creat-1.6*# Na-142 
K-3.9 Cl-103 HCO3-32 AnGap-11
___ 03:22AM BLOOD CK(CPK)-2877*
___ 07:20PM BLOOD ALT-19 AST-42* LD(LDH)-278* ___ 
AlkPhos-65 TotBili-0.3
___ 11:04AM BLOOD ALT-23 AST-38 LD(LDH)-259* CK(CPK)-1286* 
AlkPhos-63 TotBili-0.4
___ 11:04AM BLOOD Calcium-9.4 Phos-2.0* Mg-1.7
___ 03:22AM BLOOD CRP-13.4*
___ 06:35PM BLOOD freeCa-0.94*

_____________________

LIVER U/S ___
IMPRESSION: 
  
1. No cholelithiasis or sonographic evidence of acute 
cholecystitis. No 
biliary ductal dilation. 
  
2. No renal masses, hydronephrosis or nephrolithiasis. Increased 

echogenicity of the renal parenchyma bilaterally suggests 
underlying medical renal disease. 

Abdominal DOPPER ___
IMPRESSION: Patent renal veins bilaterally, without evidence of 
renal vein 
thrombosis. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with 6 days of N/V and poor PO 
intake who presented with a creatinine 12.8.  
.  
#. ARF: Patient initially described only 6 days of nausea and 
vomiting but in further discussion, she revealed that this has 
actually been going on for a month. She has not had any workup 
for her nausea and vomiting. Her elevated Creatinine was likely 
pre-renal, due to profound dyhydration. This is supported by the 
fact that her creatinine improved with IV fluids (from 12 on 
admission to 1.9 on discharge.) She had not been urinating in 
the ED but urinated well after several liters of IV fluid. Her 
urinalysis showed casts consistent with ATN, which was thought 
to be consistent with a long-term pre-renal ___ picture per 
renal consult. CK was elevated and decreased overnight- this was 
also thought to be consistent with dehydration. There was some 
concern for renal vein thrombosis given patient's history of PE 
and that she presented with a subtherapeutic INR, but Doppler 
was negative. Patient denies dysuria but given U/A showing neg 
leuks and nitrites with moderate bacteria, we discharged her on 
a three day course of Cipro (she has had UTIs sensitive to this 
in the past.) On a telephone call after discharge, we advised 
the patient to only take 5 mg Coumadin daily until she sees Dr. 
___ week (decreased from her normal schedule of 7.5 mg 
on some days) due to the fact that she was taking Cipro.
.  
#. N/V: Patient did not have nausea or vomiting while in the 
hospital. This was thought to be due to viral gastroenteritis in 
the short term. However, if she truly has had this problem for a 
month, she could have another underlying problem. She was told 
to follow this up with her PCP. The patient was able to tolerate 
food and fluids in the hospital. She was told to contact her PCP 
or return to the ED if unable to tolerate POs. Of note the 
patient was afebrile, without diarrhea, with lipase 77.  
.  
#. h/o PE, subtherapeutic INR: Patient had been followed by heme 
and per history needs indefinite anticoagulation. She received a 
therapeutic dose of lovenox in ED (120mg) while her Cr was 12.8 
so we held anticoagulation in the hospital. A Factor XA test was 
performed and was normal and so we decided to restart 
anti-coagulation on discharge. The patient did not need to be 
bridged because she didn't have an active clot (hx of clots over 
a year ago per the patient) and so she was restarted on 
coumadin. On a telephone call after discharge, we advised the 
patient to only take 5 mg Coumadin daily until she sees Dr. 
___ week (decreased from her normal schedule of 7.5 mg 
on some days) due to the fact that she was taking Cipro.
.   
#. HTN: Patient was not hypertensive here. We held her 
lisinopril during hospitalization and on discharge with 
instructions to follow this up with her PCP, given her acute 
kidney injury.  
.  
#. Psych: We held the patient's psych medication in the hospital 
because she ewas sedated from receiving them in the ED. We 
restarted these on discharge.

 
Medications on Admission:
Seroquel 600 QHS  
Clonazepam 0.5mg daily  
Albuterol inhaler  
Lisinopril 20 mg daily  
Ambien 12.5 CR daily  
Percoset 2 tablets q4-6 prn  
Warfarin 7.5mg MWF and 5 TuThSa  
Flovent inhaler  

 
Discharge Medications:
1. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for wheezing. 
 
2. Fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
3. Seroquel 400 mg Tablet Sig: 1.5 Tablets PO at bedtime.  
4. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO once a day.  
5. Ambien CR 12.5 mg Tablet, Multiphasic Release Sig: One (1) 
Tablet, Multiphasic Release PO once a day.  
6. Percocet  Oral
7. Warfarin 7.5 mg Tablet Sig: One (1) Tablet PO ___, 
___.  
8. Warfarin 5 mg Tablet Sig: One (1) Tablet PO ___, 
___.  
9. Outpatient Lab Work
Please draw: K, Cr, ___, INR on ___.

Please fax results to ___, MD at ___.
Any problem with faxing: phone is ___.
10. Cipro 250 mg Tablet Sig: One (1) Tablet PO twice a day for 3 
days.
Disp:*6 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Acute Kidney Injury, likely due to dehydration
.
Secondary Diagnoses:
Gastroenteritis, likely viral
History of PE, anti-coagulated

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because you had nausea and 
vomiting. We were worried about your kidneys because our blood 
tests showed that they were not working well when you arrived. 
This is likely because you were very dehydrated. We gave you a 
lot of IV fluids and your kidney blood tests improved. Because 
your kidney is not completely back to normal, we think you 
should stop taking Lisinopril for now. Your primary care doctor 
can decide when to restart this. We were worried that you might 
have a UTI so we are going to give you an antibiotic for this 
for three days.
.
It is very important that you take a lot of fluids at home; if 
you are unable to hold these down, you should contact your PCP 
and come back to the ED immediately. You should tell your PCP 
about your ongoing vomiting and she can decide how to work this 
up.
.
In summary
We STOPPED your Lisinopril- you should talk to your PCP about 
when to restart this.
We ADDED Ciprofloxacin- you should take this for three days.
.
You need to go get blood drawn on ___. These tests will be 
faxed to your primary care doctor.
 
Followup Instructions:
___